US04889855
b. 2,3-Dihydroxy-10-nitrobenzo(f)quinoxaline
A suspension of 1,2-diethoxalylamino-8-nitro-naphthalene (0.40 g, 1 mmol) in 20 ml of 4M hydrochloric acid was refluxed with stirring for 21/2 h. The mixture was cooled, and the product was filtered off, washed with water, and dried to give 0.23 g (88%) of the title compound.

reactant | 1,2-diethoxalylamino-8-nitro-naphthalene | 1 mmol, 0.40 g | C(=O)(C(=O)OCC)NC1=C(C=CC2=CC=CC(=C12)[N+](=O)[O-])NC(=O)C(=O)OCC | C18H17N3O8
solvent | hydrochloric acid | 4M, 20 ml | Cl | ClH
product | 2,3-Dihydroxy-10-nitrobenzo(f)quinoxaline | 0.23 g, 88% | OC=1C(=NC=2C=CC3=C(C2N1)C(=CC=C3)[N+](=O)[O-])O | C12H7N3O4
